US08710219B2
Step a: (Z)-Ethyl-2-(ethoxymethyl)-3-methoxyacrylate (Compound 202)
Sodium (40.9 g, 1.78 mol) was added to ethanol (750 mL) in portions carefully and the solution was concentrated to give NaOEt powder after all sodium metal disappeared. Under stirring, hexane (1.0 L) was added and the mixture was cooled with ice-water bath. A mixture of 201 (130 g, 0.89 mol) and ethyl formate (131 g, 1.78 mol) was added dropwise at 0-5° C. The reaction mixture was stirred at room temperature overnight. Dimethyl sulfate (224 g, 1.78 mol) was added dropwise with cooling of ice-water bath. The resulting mixture was heated at 50° C. for 2 h. To the mixture was added triethylammonium chloride (122 g) and sodium hydroxide (20 g). The mixture was then stirred at room temperature for 4 h and filtered. The filtrate was washed with water and dried over Na2SO4. It was concentrated to afford the titled compound (140 g, 37%) as a colorless oil which was used in the next step without further purification.

reactant | ethyl formate | 1.78 mol, 131 g | C(=O)OCC | C3H6O2
reactant | Dimethyl sulfate | 1.78 mol, 224 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | triethylammonium chloride | 122 g | [Cl-].C(C)[NH+](CC)CC
reactant | sodium hydroxide | 20 g | [OH-].[Na+]
reactant | hexane | 1.0 L | CCCCCC | C6H14
product | (Z)-Ethyl-2-(ethoxymethyl)-3-methoxyacrylate | 140 g, 37% | C(C)OC(\C(=C/OC)\COCC)=O | C9H16O4
